US08729273B2
Preparation 33: Synthesis of 5-(3-formyl-1-isopropyl-indol-5-yl)-thiophene-2-carboxylic acid methyl ester
To anhydrous dichloromethane (30 mL) was added oxalyl chloride (0.1 mL, 1.2 mmol). N,N-dimethylformamide (0.1 mL, 1.2 mmol) was added at 0° C., and stirred for 30 min at 0° C. To this reaction solution was added 5-(1-isopropyl-indol-5-yl)thiophene-2-carboxylic acid methyl ester (0.3 g, 1.0 mmol) obtained in Preparation 32, which was then stirred for 1 h at room temperature. The solvent was removed, tetrahydrofuran (30 mL) and 20% aqueous ammonium acetate solution (30 mL) were added to the residue, and the mixture was heated for 30 min while being stirred under reflux. The reaction solution was cooled, ethyl acetate was added, and the mixture was washed with aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting solid was filtered, washed with ethyl acetate and dried to give the title compound (0.32 g, 99% Yield).

reactant | oxalyl chloride | 1.2 mmol, 0.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 1.2 mmol, 0.1 mL | CN(C=O)C | C3H7NO
reactant | 5-(1-isopropyl-indol-5-yl)thiophene-2-carboxylic acid methyl ester | 1.0 mmol, 0.3 g | COC(=O)C=1SC(=CC1)C=1C=C2C=CN(C2=CC1)C(C)C | C17H17NO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5-(3-formyl-1-isopropyl-indol-5-yl)-thiophene-2-carboxylic acid methyl ester | 0.32 g, 99% Yield | COC(=O)C=1SC(=CC1)C=1C=C2C(=CN(C2=CC1)C(C)C)C=O | C18H17NO3S
